US07816437B2
Into a four-neck bottle reactor equipped with a stirrer and a nitrogen gas conduit under the flow rate of nitrogen gas of 20 cc/min, 41 g (0.1 mole) of 2,2-bis[4-(4-aminophenoxy)phenyl]-propane (BAPP) was placed and dissolved in N-methylpyrrolidone (NMP). After 15 minutes at a temperature of 15° C., in a first flask, 2.94 g (0.01 mole) 3,3′,4,4′-biphenyltetracarboxylic dianhydride (BPDA) was dissolved in 10 g of NMP meanwhile maintained at a temperature of 15° C. and kept introducing of nitrogen. In a second flask, 22.54 g (0.07 mole) of 3,3′,4,4′-benzophenone-tetracarboxylic dianhydride (BTDA) was dissolved in 15 g of NMP and fed into the above reactor that the nitrogen gas was continuously charged and stirred to carry out the reaction for one hour. 6.2 g (0.02 mole) of 4,4′-oxydiphthalic anhydride (ODPA) and 30 g of NMP were fed in a third flask and then stirred to dissolve. Subsequently, the mixture in the third flask was added to the above reactor that the nitrogen gas was continuously charged and stirred at a temperature of 15° C. to carry out the reaction for four hours to obtain polyamic acid (PAA) resin. Stopping the introduction of nitrogen, the reactor was equipped with Dean Stack instrument to distill water off. 87 Grams of toluene was added into the reactor and the temperature of the reactor was increased to 185° C. for subjecting to cyclodehydration to convert polyamic acid into polyimide resin while azeotropic distillation with toluene was carried out to remove water continuously. When no water was distilled off, the temperature of the reaction was cooled to room temperature. Then methanol was added into the reactor to precipitate the polyimide resin. The precipitated polyimide resin was filtered and washed with methanol twice, and dried in an oven to obtain polyimide resin powder.

reactant | 2,2-bis[4-(4-aminophenoxy)phenyl]-propane | 0.1 mole, 41 g | NC1=CC=C(OC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OC2=CC=C(C=C2)N)C=C1 | C27H26N2O2
reactant | 3,3′,4,4′-biphenyltetracarboxylic dianhydride | 0.01 mole, 2.94 g | C1=CC2=C(C=C1C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | C16H6O6
reactant | 4,4′-oxydiphthalic anhydride | 0.02 mole, 6.2 g | C1=CC2=C(C=C1OC3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | C16H6O7
reactant | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
reactant | NMP | 10 g | CN1C(CCC1)=O | C5H9NO
reactant | NMP | 15 g | CN1C(CCC1)=O | C5H9NO
reactant | NMP | 30 g | CN1C(CCC1)=O | C5H9NO
product | polyimide resin | CC1(CC(C2=C1C=C(C=C2)N)(C)C3=CC=C(C=C3)N)C.C1=CC2=C(C=C1C(=O)C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | InChI=1S/C18H22N2.C17H6O7/c1-17(2)11-18(3,12-4-6-13(19)7-5-12)15-9-8-14(20)10-16(15)17;18-13(7-1-3-9-11(5-7)16(21)23-14(9)19)8-2-4-10-12(6-8)17(22)24-15(10)20/h4-10H,11,19-20H2,1-3H3;1-6H
